*==========================================================================
* Copyright 2026 IHP PDK Authors
*
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
*
*    https://www.apache.org/licenses/LICENSE-2.0
*
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.
* SPDX-License-Identifier: Apache-2.0
*==========================================================================
* cmomi_short_same.gds: a 'same' feed cap with its two plates shorted, next to
* a well formed cap.
*
* The netlist declares both devices as intended. The layout has a Via3 dropped
* into the pin overlap of the 'same' feed cap, tying its mmax and mmax-1 plates
* together, and that device then disappears from the layout netlist. The good
* cap is what keeps the cell populated, so the comparison is a real one.
*
* Expected to FAIL. This is what proves the per-metal pin connect in
* cap_cmomi_connections.lvs is doing the isolating, rather than the good 'same'
* testcase passing for some unrelated reason.
.SUBCKT cmomi_short_same
C1 PLUS MINUS cap_cmomi w=5e-06 l=5e-06 mmin=1 mmax=4 feed=same
C2 P2   M2    cap_cmomi w=5e-06 l=5e-06 mmin=1 mmax=4 feed=double
.ENDS cmomi_short_same
